US08466181B2
N-Cyclopropyl-6-(4-(4-(2-fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinamide
As described for example 22, 6-(4-(4-(2-fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid (69 mg, 0.189 mmol) was converted, using cyclopropylamine instead of 4-aminotetrahydropyran, to the title compound (43 mg, 56%) which was obtained as a white foam. MS: m/e=404.4 [M+H]+.

reactant | 6-(4-(4-(2-fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid | 0.189 mmol, 69 mg | FC1=C(C=CC=C1)C=1N=NN(C1C=1N=CN(C1)C1=NC=C(C(=O)O)C=C1)C | C18H13FN6O2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | N-Cyclopropyl-6-(4-(4-(2-fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinamide | 43 mg, 56% | C1(CC1)NC(C1=CN=C(C=C1)N1C=NC(=C1)C1=C(N=NN1C)C1=C(C=CC=C1)F)=O | C21H18FN7O
